US08003677B2
3f: N-(3-Methylbutyl)-2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]thiazole-5-carboxamide
N-(3-Methylbutyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide, trifluoroacetate (220 mg, 0.52 mmol) and triethylamine (0.22 ml, 1.57 mmol) were dissolved in 10 ml of DMF and admixed in an ice bath with 2-trifluoromethylbenzoyl chloride (218 mg, 1.04 mmol). The mixture was stirred further for 1 h and allowed to warm to room temperature, and concentrated, water and ethyl acetate were added and the organic phase was removed, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 25 mg (10%), M+H+: 479.06.

reactant | N-(3-Methylbutyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide | CC(CCNC(=O)C1=CN=C(S1)N1CC=2CNCC2C1)C | C15H22N4OS
reactant | trifluoroacetate | 0.52 mmol, 220 mg | FC(C(=O)[O-])(F)F
reactant | triethylamine | 1.57 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | 2-trifluoromethylbenzoyl chloride | 1.04 mmol, 218 mg | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(3-Methylbutyl)-2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]thiazole-5-carboxamide | CC(CCNC(=O)C1=CN=C(S1)N1CC=2CN(CC2C1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C23H25F3N4O2S
